US08193199B2
To a solution of 8-chloro-3-(chloromethyl)-2-phenoxyquinoline (1 eq) in DMSO (0.25 M) was added NaN3 (3 eq) at rt and the mixture was stirred for 4 h at rt. The mixture was diluted with water, extracted with EtOAc (2 times) and the combined organic layers were washed with water (2 times), dried over Na2SO4, filtered, and concentrated under reduced pressure. The residue was dissolved in MeOH and treated with 10% Pd—C (5 wt %) and the mixture was then stirred under H2 balloon over night. The mixture was filtered through a Celite™ pad followed by removal of solvents to give (8-chloro-2-phenoxyquinolin-3-yl)methanamine.

reactant | 8-chloro-3-(chloromethyl)-2-phenoxyquinoline | 1 eq | ClC=1C=CC=C2C=C(C(=NC12)OC1=CC=CC=C1)CCl | C16H11Cl2NO
reactant | NaN3 | 3 eq | [N-]=[N+]=[N-].[Na+]
solvent | DMSO | 0.25 M | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | (8-chloro-2-phenoxyquinolin-3-yl)methanamine | ClC=1C=CC=C2C=C(C(=NC12)OC1=CC=CC=C1)CN | C16H13ClN2O
